US04008272
37 g (0.2 mole) of para-[N-(β-amino-ethyl)]amino nitrobenzene is dissolved in 200 cm3 of water at 30° C, to which 15 cm3 (0.26 mole) of acetic acid had been added. 17 g (0.21 mole) of potassium isocyanate is then rapidly added. The desired product precipitates immediately in a form which is very difficult to dry. 150 cm3 of acetic acid is added to the reaction mixture and it is heated until the urein is completely dissolved. After slow cooling, drying yields 33 g of para-[N-(β-ureidoethyl)]amino nitrobenzene in a well crystallized form, which is practically prue and melts at 187° C.

reactant | para-[N-(β-amino-ethyl)]amino nitrobenzene | 0.2 mole, 37 g | NCCNC1=CC=C(C=C1)[N+](=O)[O-] | C8H11N3O2
reactant | acetic acid | 0.26 mole, 15 cm3 | C(C)(=O)O | C2H4O2
reactant | potassium isocyanate | 0.21 mole, 17 g | [N-]=C=O.[K+]
solvent | water | 200 cm3 | O | H2O
product | para-[N-(β-ureidoethyl)]amino nitrobenzene | 33 g | N(C(=O)N)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N4O3
